US06562827B1
3.4 g of methyl 2-chloronicotinate were reacted with 3.4 g of 4-piperidinopideridine in 75 ml of DMF in the presence of 5.5 g of potassium carbonate and a spatula tipful of 18-crown-6 analogously to Example 1a, 5.9 g (97%) of the product being obtained.

reactant | methyl 2-chloronicotinate | 3.4 g | ClC1=C(C(=O)OC)C=CC=N1 | C7H6ClNO2
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
